US06359134B1
1-(6-Bromonaphthalene-2-sulfonyl)piperazine hydrochloride
To the obtained 1-(tert-butoxycarbonyl)-4-(6-bromonaphthalene-2-sulfonyl)piperazine (2.80 g) were added methanol (10 ml) and 4 N hydrochloric acid in ethyl acetate solution (25 ml), and the solution was stirred at room temperature for 30 minutes. The reaction solution was concentrated and the residue was treated with acetone to give amorphous powders. The powders were dried under reduced pressure to give the title compound (2.358 g).

reactant | 1-(tert-butoxycarbonyl)-4-(6-bromonaphthalene-2-sulfonyl)piperazine | 2.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Br | C19H23BrN2O4S
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(6-Bromonaphthalene-2-sulfonyl)piperazine hydrochloride | 2.358 g | Cl.BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1 | InChI=1S/C14H15BrN2O2S.ClH/c15-13-3-1-12-10-14(4-2-11(12)9-13)20(18,19)17-7-5-16-6-8-17;/h1-4,9-10,16H,5-8H2;1H
